US09403801B2
Step 4) tert-butyl 2-hydroxy-7-azaspiro[4.5]decane-7-carboxylate
To a solution of tert-butyl 6-oxo-7-azaspiro[4.5]dec-2-ene-7-carboxylate (0.61 g, 2.44 mmol) in anhydrous THF (5 mL) was added borane-methyl sulfide complex (10.0 M, 2.45 mL, 24.5 mmol) at 0° C. After stirring for 10 min, the reaction mixture was warmed to rt and stirred overnight, then cooled down to 0° C. and a mixture of NaOH aqueous solution (3 M, 3 mL, 9 mmol) and H2O2 (30% in water, 3 mL) was added. After stirring for 5 min, the reaction mixture was heated to reflux for 5 h, then cooled down to rt and concentrated in vacuo. The residue was dissolved in water (10 mL), and extracted with EtOAc (15 mL×3). The combined organic phases were washed with brine (50 mL), and dried over anhydrous Na2SO4, then concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/5) to give the title compound as colorless oil (252 mg, 41%).

reactant | tert-butyl 6-oxo-7-azaspiro[4.5]dec-2-ene-7-carboxylate | 2.44 mmol, 0.61 g | O=C1C2(CC=CC2)CCCN1C(=O)OC(C)(C)C | C14H21NO3
reactant | NaOH | 9 mmol, 3 M, 3 mL | [OH-].[Na+]
reactant | H2O2 | 3 mL | OO | H2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-hydroxy-7-azaspiro[4.5]decane-7-carboxylate | 252 mg, 41% | OC1CC2(CC1)CN(CCC2)C(=O)OC(C)(C)C | C14H25NO3
